* C:\Users\Charlie\Desktop\ISCAD_GIP\LTspice\double_pulse_setup_including_gate_driver_circuitry_isolatedgrounds.asc
* Generated by LTspice 26.0.1 for Windows.
V_DC V_supply 0 {supply_voltage} Rser=0
C_DC1 C_DC1 N028 {DC_link_capacitor} Rser=0
C_snb1 V_D_high3 N022 {snubber_capacitor} Rser=0
L_ph phase V_D_high3 {phase_inductance} Rser={phase_resistance}
X§M1 V_D_high3 V_G_high1 N019 IPTG011N08NM5_L0 ;§pnba D)G)S
X§M2 phase V_G_low1 N027 IPTG011N08NM5_L0 ;§pnba D)G)S
L_cm1[H] N019 phase {common_mode_inductance} Rser=0
L_cm1[L] N027 low {common_mode_inductance} Rser=0
L_pwr1 N022 low {power_loop_inductance} Rser=100u
C_snb2 V_D_high3 N023 {snubber_capacitor}
X§M3 V_D_high3 V_G_high2 N020 IPTG011N08NM5_L0 ;§pnba D)G)S
X§M4 phase V_G_low2 N025 IPTG011N08NM5_L0 ;§pnba D)G)S
L_cm2[H] N020 phase {common_mode_inductance} Rser=0
L_cm2[L] N025 low {common_mode_inductance} Rser=0
L_pwr2 N023 low {power_loop_inductance} Rser=100u
C_snb3 V_D_high3 N024 {snubber_capacitor}
X§M5 V_D_high3 V_G_high3 N021 IPTG011N08NM5_L0 ;§pnba D)G)S
X§M6 phase V_G_low3 N026 IPTG011N08NM5_L0 ;§pnba D)G)S
L_cm3[H] N021 phase {common_mode_inductance} Rser=0
L_cm3[L] N026 low {common_mode_inductance} Rser=0
L_pwr3 N024 low {power_loop_inductance} Rser=100u
L1 V_DClink N015 {DC_link_inductance} Rser=0
L2 N028 N029 {DC_link_inductance} Rser=0
R1 V_D_high3 N015 {DC_link_resistance}
R2 low N029 {DC_link_resistance}
L3 V_supply V_DClink {supply_inductance} Rser=1m
L4 0 N028 {supply_inductance} Rser=1m
R3 V_DClink C_DC1 {C_DC_ESR}
L_g1 V_GD[L] N013 {gate_inductance} Rser=0
R_g1 N013 V_G_low1 {gate_resistor}
X§U2 0 low N014 0 V_GD[L] N009 N011 low UCC5390ECD_TRANS ;§pnba GND1)GND2)IN+)IN-)OUT)VCC1)VCC2)VEE2
V4 N009 0 5
V6 N011 low 15
C5 N009 0 0.1µ
C6 N009 0 0.1µ
C7 N011 low 1µ
C8 N011 low 1µ
X§U3 0 phase N004 0 N002 N001 N005 phase UCC5390ECD_TRANS ;§pnba GND1)GND2)IN+)IN-)OUT)VCC1)VCC2)VEE2
V9 N001 0 5
V10 N005 phase 15
C9 N001 0 0.1µ
C10 N001 0 0.1µ
C11 N005 phase 1µ
C12 N005 phase 1µ
D1 N011 N012 D
C13 N005 N012 1µ
V1 N014 0 PWL(0 0 {Tdelay} 0 {Tdelay+Trise} {Vgate} {Tdelay+Trise+T1} {Vgate} {Tdelay+Trise+T1+Tfall} 0 {Tdelay+Trise+T1+Tfall+T2} 0 {Tdelay+Trise+T1+Tfall+T2+Trise} {Vgate} {Tdelay+Trise+T1+Tfall+T2+Trise+T3} {Vgate} {Tdelay+Trise+T1+Tfall+T2+Trise+T3+Tfall} 0 {Tdelay+Trise+T1+Tfall+T2+Trise+T3+Tfall+5*Tdelay} 0) Rser=0.13
L_g2 N002 N003 {gate_inductance} Rser=0
R_g2 N003 V_G_high1 {gate_resistor}
V2 N004 0 0
L_g3 V_GD[L] N010 {gate_inductance} Rser=0
R_g3 N010 V_G_low2 {gate_resistor}
L_g4 V_GD[L] N008 {gate_inductance} Rser=0
R_g4 N008 V_G_low3 {gate_resistor}
L_g5 N002 N006 {gate_inductance} Rser=0
R_g5 N006 V_G_high2 {gate_resistor}
L_g6 N002 N007 {gate_inductance} Rser=0
R_g6 N007 V_G_high3 {gate_resistor}
.model D D
.lib C:\Users\Charlie\AppData\Local\LTspice\lib\cmp\standard.dio
.param D=0.013
.param f_SW = 25k
.param period = {1/f_SW}
* .options reltol=1e-3 abstol=1e-12 vntol=1e-6 ; standard
.include OptiMOS5_80V_LTSpice.lib
.param snubber_capacitor=33n
.param DC_link_capacitor = 132u
.param supply_voltage =48
.param phase_resistance = 0.853m
.param phase_inductance = 30u
.param I_ph_RMS = 140
.param I_RMS_MOSFET = (I_ph_RMS)*(sqrt(D))
.param Maximum_junction_temperature = 175
.param rds_on = 1.1m
.param common_mode_inductance = 1p
.param power_loop_inductance = 2.32n
.param gate_resistor = 2.4
.param gate_inductance = 20n
* SETUP
* MOSFETs
* OPERATING POINT
* PARASITIC INDUCTANCES
* PASSIVES
.param Vgate = 5
* .step param gate_resistor 1 6 2
.param DC_link_inductance = 5.65n
* ASSUME: symmetrical power loops
* TRACE + BUS BAR RESISTANCES NOT YET ESTIMATED\n- Bus bar resistance: 12x0.5mm, approx 2.8uOhm/mm
* ASSUME: balanced parallel MOSFETs
* .tran 0 100m 0 uic
* GATE DRIVE loops modelled as unbalanced
.param supply_inductance = 100n
* PARASITIC RESISTANCES
.param DC_link_resistance = 150u
* .param C_DC_ESR = 0.14m
* OneNote > Capacitor Reanalysis (DC)
* OneNote > Snubber Capacitors (DC) (should be u not n??)
* OneNote > 3 slot (CG)
* OneNote > 3 slot (CG)
.options plotwinsize=0 ; allows viewing waveform after abort
* parasitics are capacitance/inductance/resistance\npassive components are capacitor/inductor/resistor\nhigh and low side elements have [H] and [L] appended to name\nG_CC = common reference voltage, phase output etc.\nGD = gate drive\nG = gate\nD = drain\nS = source
.options maxstep=100n ; pushes through transient reponse of reactive components
* .options reltol=3e-3 abstol=1e-9 vntol=1e-3 ; very relaxed
.options reltol=10e-3 abstol=1e-8 vntol=1e-3 method=trap ; find steady state
* PWM (for DPT)
* L_pwr:    ESR = 100u (approx 30mm of bus bar)
* L_cm[H], L_cm[L}:    ESR = 0 (series resistance present on DC link)
* L_n:    ESR = 50u (approx 15mm bus bar)
* OneNote > Lab > Power Supply Requirements
.param C_snb_ESR = 2.5m
.param C_DC_ESR = 0.48m
* OneNote > PCB > DC Link Capacitor Reanalysis for (for CAA573X7S2A476M640LH)
* approx 50mm bus bar
* OneNote > PCB > Snubber Capacitors
.param T1 = 88u
.param T2 = 50u
.param T3 = 50u
.param Trise = 35n
.param Tfall = 25n
.param Tsim={Tdelay+Trise+T1+Tfall+T2+Trise+T3+Tfall+5*Tdelay}
.tran 0 {Tsim} 0 uic
.param Tdelay= 250u     ; settling time before first pulse, charges MOSFET capactitance
* .step param gate_inductance 5 20 5
* .options method=gear ; numerical damping
* .options reltol=3e-3 abstol=1e-10 vntol=1e-5 gmin=1e-10 cshunt=1e-15; relaxed
* .options numdgt=7 ; reduce compression of waveform data
.ic V(V_D_high1) = {supply_voltage}
+ V(V_D_high2) = {supply_voltage}
+ V(V_D_high3) = {supply_voltage}
* .save V(n014) dialogbox
.ic V(V_DClink) = {supply_voltage}
* NOMENCLATURE
* <Filename_Model.asc>
* <Filename_Model_PlotsDescriptor.plt>
* Library below included based on ModelFile attribute of instance X§U2, X§U3 (C:\Users\Charlie\Desktop\ISCAD_GIP\LTspice\UCC5390ECD_TRANS.asy)
.lib UCC5390ECD_TRANS.LIB
.backanno
.end
