*$
* UCC5390ECD
*****************************************************************************
* (C) Copyright 2017 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: WEBENCH Design Center, Texas Instruments Inc.
* Part: UCC5390ECD
* Date: 03AUG2017
* Model Type: TRANSIENT 
* Simulator: PSPICE
* Simulator Version: 16.2.0.p001
* EVM Order Number: UCC5390EDEVM
* EVM Users Guide: SLLU238–JUNE 2017
* Datasheet: SLLSER8A – JUNE 2017 – REVISED JUNE 2017
* Topologies Supported: NA
*
* Model Version: Final 1.00
*
*****************************************************************************
*
* Updates:
*
* Final 1.00
* Release to Web.
*
*****************************************************************************
*
* Model Usage Notes:
*
* 1. The following features have been modeled
*      a. Switching Characteristics such as propagation delay, rise/fall time
*      b. Peak output source/sink current
*      c. UVLO
*      d. Short Circuit Clamping
*      e. Active ShutDown
* 2. Temperature effects are not modeled. 
*
*****************************************************************************
.SUBCKT UCC5390ECD_TRANS GND1 GND2 IN+ IN- OUT VCC1 VCC2 VEE2  
X_U676         INP_INT N16816719 N16839246 N16832250 COMPHYS_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=0.5
E_ABM20         N17027842 0 VALUE { IF(V(N16672528) > 0.5 , 1, 0)    }
E_E8         N16669982 0 N17027842 0 1
X_U60         N17110019 DRVA_MOD d_d1 PARAMS:
X_M14         VCC2 GATE_N OUT nmos_upper PARAMS:
R_R58         GND2 VCC2  1G TC=0,0 
X_S1    ASD 0 OUT N17358601 UCC5390ECD_TRANS_S1 
R_R52         DRVA_MOD N17110019  10 TC=0,0 
C_C2         0 UVLO2_DELAYED  1.443n  TC=0,0 
E_ABM1         N17180405 0 VALUE { IF(V(GATEUPPERMOS)>0.5, (V(VCC2)-5),
+  V(VCC2))    }
X_U9         N17358601 GND2 d_dsd PARAMS:
R_R1         UVLO1 UVLO1_DELAYED  33k TC=0,0 
V_V8         N16789976 0 2.7
E_E34         GATE_P 0 N17180405 0 1
X_U56         UVLO2_DELAYED UVLO2 d_d1 PARAMS:
E_E30         N16850890 0 VCC1_INT 0 0.7
X_U677         INN_INT N16850890 N16851003 N16855073 COMPHYS_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=0.5
E_ABM25         ASD 0 VALUE { IF(V(UVLO_OK)<0.5, 1,0)    }
X_U17         UVLO1 N16832250 INP_OK AND2_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
E_E3         GATEUPPERMOS 0 VALUE { if ( V(DRVA, 0) >0.5, 1, 0 ) }
E_ABM2         N17180339 0 VALUE { LIMIT(IF(V(GATEUPPERMOS)>0.75, V(OUT)+5, 0),
+  0, V(VCC2))    }
V_V3         N16781655 0 12
X_M13         OUT GATE_LOWERMOS VEE2 lowmos PARAMS:
R_R57         GND1 VCC1  1G TC=0,0 
E_E21         VCC1_INT 0 VCC1 GND1 1
X_U20         UVLO1_DELAYED UVLO2_DELAYED UVLO_OK AND2_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=500E-3
X_U55         UVLO1_DELAYED UVLO1 d_d1 PARAMS:
R_R2         UVLO2 UVLO2_DELAYED  55k TC=0,0 
E_ABM23         DRVA_MOD 0 VALUE { IF(V(UVLO_OK)>0.5 & V(DRVA)<0.45, 7.0,0)   
+  }
E_ABM5         DRVA 0 VALUE { IF(V(UVLO_OK) > 0.5, V(N16669580), 0)    }
E_E31         N16839246 0 VCC1_INT 0 0.4
X_U26         N16855073 N16850947 INV_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
R_R30         INPUT_OK N16672528  8 TC=0,0 
X_U7         VCC2_INT N16781655 UVLO2 COMPHYS3_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=0.5 HYS=1
X_U3         VEE2 OUT d_d1 PARAMS:
C_C24         0 N16672528  1.443n  
E_E33         GATE_N 0 N17180339 0 1
T_T1         N16669982 0 INPUT_DEL 0 Z0=1k TD=52n  
C_C1         0 UVLO1_DELAYED  1.443n  TC=0,0 
X_U5         OUT VCC2 d_body PARAMS:
E_E32         N16851003 0 VCC1_INT 0 0.4
X_U57         N16672528 INPUT_OK d_d1 PARAMS:
E_E26         INP_INT 0 IN+ GND1 1
R_R54         0 INPUT_DEL  1k TC=0,0 
X_U19         INP_OK INN_OK INPUT_OK AND2_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
X_U8         OUT VCC2 d_body PARAMS:
E_E22         VCC2_INT 0 VCC2 GND2 1
X_M16         OUT GATE_P VCC2 pmos_upper PARAMS:
X_U18         UVLO1 N16850947 INN_OK AND2_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
C_C38         0 N17110019  1.443n  
E_E15         GATE_LOWERMOS VEE2 N17110019 0 1
E_E28         N16816719 0 VCC1_INT 0 0.7
E_E7         N16669580 0 INPUT_DEL 0 1
R_RLP         GND1 IN+  {5V/40uA} TC=0,0 
X_U6         VCC1_INT N16789976 UVLO1 COMPHYS3_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=0.5 HYS=0.2
E_E29         INN_INT 0 IN- GND1 1
R_RLN         IN- VCC1  {5V/40uA} TC=0,0 
.ENDS UCC5390ECD_TRANS
*$
.subckt UCC5390ECD_TRANS_S1 1 2 3 4  
S_S1         3 4 1 2 _S1
RS_S1         1 2 1G
.MODEL         _S1 VSWITCH Roff=100MEG Ron=1.0 Voff=0.4 Von=0.6
.ends UCC5390ECD_TRANS_S1
*$
.subckt d_d1 1 2 
d1 1 2 dd
.model dd d
+ n=0.5
.ends d_d1
*$
.subckt nmos_upper d g s
m1 d g s s _mod
.model _mod nmos
+ kp=8.08e-009
+ w=1.8
+ l=1e-008
+ vto=0.2
+ n=2.5
.ends nmos_upper
*$
.subckt d_dsd 1 2 
d1 1 2 dd 
.model dd d
+ n=2
.ends d_dsd
*$
.subckt lowmos d g s
m1 d g s s _mod
.model _mod nmos
+ kp=1.47e-008
+ w=0.5
+ l=1e-008
+ vto=0.2
+ n=2.5
+ rg=0
+ cgso=0
.ends lowmos
*$
.subckt d_body 1 2 
d1 1 2 dd
.model dd d
+ n=1
.ends d_body
*$
.subckt pmos_upper d g s
m1 d g s s _mod
.model _mod pmos
+ kp=2e-009
+ w=0.107
+ l=1e-008
+ vto=-0.2
+ n=2.5
.ends pmos_upper
*$
.SUBCKT COMPHYS_BASIC_GEN INP INM HYS OUT PARAMS: VDD=1 VSS=0 VTHRESH=0.5	
EIN INP1 INM1 INP INM 1 
EHYS INP1 INP2 VALUE { IF( V(1) > {VTHRESH},-V(HYS),0) }
EOUT OUT 0 VALUE { IF( V(INP2)>V(INM1), {VDD} ,{VSS}) }
R1 OUT 1 1
C1 1 0 5n
RINP1 INP1 0 1K
.ENDS COMPHYS_BASIC_GEN
*$
.SUBCKT AND2_BASIC_GEN A B Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH}  &  
+ V(B) > {VTHRESH},{VDD},{VSS})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS AND2_BASIC_GEN
*$
.SUBCKT INV_BASIC_GEN A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH} , 
+ {VSS},{VDD})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS INV_BASIC_GEN
*$
.SUBCKT COMPHYS3_BASIC_GEN INP INM OUT PARAMS: VDD=1 VSS=0 VTHRESH=0.5	HYS=0.1
EIN INP1 INM1 INP INM 1 
EHYS INP1 INP2 VALUE { IF( V(1) > {VTHRESH},-HYS,0) }
EOUT OUT 0 VALUE { IF( V(INP2)>V(INM1), {VDD} ,{VSS}) }
R1 OUT 1 1
C1 1 0 1n 
RINP1 INP1 0 1K
.ENDS COMPHYS3_BASIC_GEN
*$
.subckt D_D11 1 2 
d1 1 2 dd
.model dd d n=0.3
.ends D_D11
*$
.SUBCKT IGBT C G E
L_E   VA E  2n 
R_E   VE VA 0.0032
R_C   VC C  0.012
R_G   G VG  0.0001
CGE  E VG  4n
M1   VD VG VE VE MOS1 W=19u L=1u 
Q1   VE VD VC VINTERALPNP 
D_SD  VE VD DO 
L_d E1 E 2n
D_FRED E1 C FRD
E_cg VG VCG VG E 1
D_CG VCG C DCG
D_CG1 VCG C DCG
.MODEL DCG D
+ CJO=3.0814E-9
+ M=1.4555
+ VJ=8
+ BV=1.2000E3
.MODEL VINTERALPNP PNP 
+ IS=8.07e-22  
+ NF=0.75          
+ BF=0.966  
+ CJE=4.28e-7
+ TF=2.4e-9       
+ XTB=1.0204      
+ EG=1.52   
.MODEL DO D 
+ IS=1.0e-18      
+ BV=1.2000E3
+ CJO=2.5e-9     
+ VJ=0.38    
+ M=0.84
.MODEL FRD D 
+ IS=36.910E-9
+ N=4.5591
+ RS=5.8822E-3
+ IKF=.10401
+ CJO=5.1196E-9
+ M=2.2146
+ VJ=10
+ ISR=10.010E-21
+ BV=1.1999E3
+ IBV=26.017E-3
+ TT=465.87E-9
.MODEL MOS1 NMOS LEVEL=1 
+IS=1e-32
+VTO=4.6
+LAMBDA=1.26605e-05 
+KP=1
.ENDS
*$
.SUBCKT BUF_BASIC_GEN A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH} , 
+ {VDD},{VSS})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS BUF_BASIC_GEN
*$
